US05409943
(b) N-(3-(4-Methoxybenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (4.6 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 26 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) to obtain the product (0.75 g), m.p. 188°-192° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 20 mmol, 4.6 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | ethyl phenylacetimidate hydrochloride | 26 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(4-Methoxybenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride | 0.75 g | Cl.COC1=CC=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=C1 | InChI=1S/C21H21N3O2.ClH/c1-25-18-11-9-17(10-12-18)15-26-19-8-5-13-23-21(19)24-20(22)14-16-6-3-2-4-7-16;/h2-13H,14-15H2,1H3,(H2,22,23,24);1H
